US03984460
N,N'-Ethylenebis-{3-(5-tert.-butyl-2,3-dimethyl-4-hydroxyphenyl)propionamide}
N,N'-1,2-propylenebis-{3-(5-tert.-butyl-2,3-dimethyl-4-hydroxyphenyl)propionamide} is made in a similar manner by substituting 1,2-propylenediamine for ethylenediamine in the above procedure.

reactant | N,N'-1,2-propylenebis-{3-(5-tert.-butyl-2,3-dimethyl-4-hydroxyphenyl)propionamide} | C(C(C)NC(CCC1=C(C(=C(C(=C1)C(C)(C)C)O)C)C)=O)NC(CCC1=C(C(=C(C(=C1)C(C)(C)C)O)C)C)=O | C33H50N2O4
reactant | ethylenediamine | C(CN)N | C2H8N2
product | N,N'-Ethylenebis-{3-(5-tert.-butyl-2,3-dimethyl-4-hydroxyphenyl)propionamide} | C(CNC(CCC1=C(C(=C(C(=C1)C(C)(C)C)O)C)C)=O)NC(CCC1=C(C(=C(C(=C1)C(C)(C)C)O)C)C)=O | C32H48N2O4
